US07947688B2
1 g (4.14 mmol) of N-(3-acetylphenyl)-1-propane-sulfonamide were dissolved in 10 ml of N,N-dimethylformamide. To the resultant solution 2.77 ml (20.74 mmol) of N,N-dimethylformamide dimethyl acetal were added and heated at 150° C. for 2 h. The solvent was removed by reduced pressure distillation to yield an oil, which was treated with a mixture of ethyl acetate-ethyl ether. A small quantity of a solid precipitated which was discarded. The filtrate was evaporated to dryness, dissolved in dichloromethane, and the organic layer was washed with 4×50 ml of water and evaporated to dryness. 1.23 g (yield=96%) of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methyl-1-propane-sulfonamide were obtained.

reactant | N-(3-acetylphenyl)-1-propane-sulfonamide | 4.14 mmol, 1 g | C(C)(=O)C=1C=C(C=CC1)NS(=O)(=O)CCC | C11H15NO3S
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate ethyl ether | C(C)(=O)OCC.C(C)OCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methyl-1-propane-sulfonamide | 1.23 g, yield=96% | CN(C=CC(=O)C=1C=C(C=CC1)N(S(=O)(=O)CCC)C)C | C15H22N2O3S
